US08198453B2
(R)-tert-Butyl 3-((R)-(3-chlorophenyl)(2-ethoxy-2-oxoethoxy)methyl)-piperidine-1-carboxylate (0.971 g, 2.36 mmol) was dissolved in 7 M NH3/MeOH (20 mL), and stirred overnight at room temperature. The solvent was removed under reduced pressure to give (R)-tert-butyl 3-((R)-(2-amino-2-oxoethoxy)(3-chlorophenyl)methyl)piperidine-1-carboxylate (902 mg, 100%), which was used for the next step without further purification. MS ESI+ve m/z 383 (M+H)+.

reactant | (R)-tert-Butyl 3-((R)-(3-chlorophenyl)(2-ethoxy-2-oxoethoxy)methyl)-piperidine-1-carboxylate | 2.36 mmol, 0.971 g | ClC=1C=C(C=CC1)[C@@H]([C@H]1CN(CCC1)C(=O)OC(C)(C)C)OCC(=O)OCC | C21H30ClNO5
reactant | NH3 MeOH | 7 M, 20 mL | N.CO
product | (R)-tert-butyl 3-((R)-(2-amino-2-oxoethoxy)(3-chlorophenyl)methyl)piperidine-1-carboxylate | 902 mg, 100% | NC(CO[C@H]([C@H]1CN(CCC1)C(=O)OC(C)(C)C)C1=CC(=CC=C1)Cl)=O | C19H27ClN2O4
